US04092311
A 10.0 g. portion of 5-methyl-6-p-bromophenyl-3(2H)-pyridazinone and 1.0 g. of 10% palladium on carbon catalyst in 150 ml. of ethanol and 50 ml. of ammonium hydroxide is shaken under 40 lb. of hydrogen pressure for 4 hours in a Parr bottle, heated to 50° C. with an outside jacket. The reaction mixture is suction filtered and the filtrate concentrated to a white solid which is washed with water and air dried to afford 5-methyl-6-phenyl-3(2H)-pyridazinone as white crystals.

reactant | 5-methyl-6-p-bromophenyl-3(2H)-pyridazinone | CC1=CC(NN=C1C1=CC=C(C=C1)Br)=O | C11H9BrN2O
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 5-methyl-6-phenyl-3(2H)-pyridazinone | CC1=CC(NN=C1C1=CC=CC=C1)=O | C11H10N2O
